US07084154B2
Diisobutylaluminum hydride (1 M in toluene, 15 mL) was slowly added to a suspension of 2-(6-methoxy-1H-indol-3-yl)ethylamine (250 mg) in 20 mL of toluene. The resulting clear solution was refluxed for 10 h, then cooled to 0° C. and quenched by the careful addition of 20 mL of 1:1 methyl alcohol:water. The mixture was stirred for 15 min at rt and filtered to remove the precipitated aluminum salts. The solvent was evaporated to yield 158 mg of 3-(2-amino-ethyl)-1H-indol-6-ol.

reactant | Diisobutylaluminum hydride | 1 M, 15 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 2-(6-methoxy-1H-indol-3-yl)ethylamine | 250 mg | COC1=CC=C2C(=CNC2=C1)CCN | C11H14N2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(2-amino-ethyl)-1H-indol-6-ol | 158 mg | NCCC1=CNC2=CC(=CC=C12)O | C10H12N2O
